US07906517B2
The crude 2-methoxy-5-carboxyphenylboronic acid (370 mg) is dissolved in N,N-dimethylformamide (10 ml), and thereto are added 2.0M-dimethylamine/tetrahydrofuran solution (1.9 ml), 1-hydroxybenzotriazole dihydrate (725 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (579 mg). The mixture is stirred at room temperature for 3 hours, and thereto is added a saturated aqueous sodium bicarbonate solution, and the mixture is extracted with ethyl acetate twice. The organic layer is dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=19:1) to give 2-methoxy-5-dimethylcarbamoylphenylboronic acid (210 mg). MS (m/z): 224 [M+H]+

reactant | 2-methoxy-5-carboxyphenylboronic acid | 370 mg | COC1=C(C=C(C=C1)C(=O)O)B(O)O | C8H9BO5
reactant | dimethylamine tetrahydrofuran | 1.9 ml | CNC.O1CCCC1
reactant | 1-hydroxybenzotriazole dihydrate | 725 mg | O.O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 579 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-5-dimethylcarbamoylphenylboronic acid | 210 mg | COC1=C(C=C(C=C1)C(N(C)C)=O)B(O)O | C10H14BNO4
